US03981886
2-Amino-5,6-dimethyl-1,3-bis[(3,5-dibromophenylthio)methyl]-1H-benzimidazol-3-ium chloride
Following the procedure of Example 2 and replacing 2-aminobenzimidazole with 2-amino-5,6-dimethylbenzimidazole and replacing 2-bromo-4-chlorophenyl chloromethyl ether with 3,5-dibromophenyl chloromethyl sulfide, the title compound is obtained.

reactant | 2-amino-5,6-dimethylbenzimidazole | NC=1NC2=C(N1)C=C(C(=C2)C)C | C9H11N3
reactant | 3,5-dibromophenyl chloromethyl sulfide | ClCSC1=CC(=CC(=C1)Br)Br | C7H5Br2ClS
product | 2-Amino-5,6-dimethyl-1,3-bis[(3,5-dibromophenylthio)methyl]-1H-benzimidazol-3-ium chloride | [Cl-].NC1=[N+](C2=C(N1CSC1=CC(=CC(=C1)Br)Br)C=C(C(=C2)C)C)CSC2=CC(=CC(=C2)Br)Br | InChI=1S/C23H19Br4N3S2.ClH/c1-13-3-21-22(4-14(13)2)30(12-32-20-9-17(26)6-18(27)10-20)23(28)29(21)11-31-19-7-15(24)5-16(25)8-19;/h3-10,28H,11-12H2,1-2H3;1H
